US07781454B2
Step 6: 3-Chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-indazol-4-yl]oxy}benzonitrile
A jacketed reaction vessel (30 L) equipped with a thermocouple was charged with 3-chloro-5-{[5-chloro-1-(1-t-butyloxycarbonyl-1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-indazol-4-yl]oxy}benzonitrile (1.338 kg; 2.499 moles; 1.0 eq.) and then with DMF (10.7 L) and IPA (2.68 L). Concentrated HCl (2.68 L) was then charged to the vessel during which time the internal temperature rose from 16° C. to 44° C. The mixture was then heated to 60° C. After 1 hour at 60° C., the suspension became a clear solution. Conversion was complete after 1.75 hours as determined by HPLC, at which point the reaction mixture was transferred into a 4-necked round bottom flask (75 L) at 55° C.-60° C. via an in-line filter. The reaction vessel was rinsed with IPA (2 L×2), and the rinse transferred to the flask via the in-line filter. Filtered water (16 L) was then added to the mixture via an additional funnel while maintaining the temperature at 55° C.-60° C., during which crystallization of the title product began. Upon completion of the water addition, the mixture was stirred at 55° C. for 40 minutes, then cooled to room temperature and filtered with a filter pot. The wet cake was rinsed with filtered IPA:water (3:7, 10 L), and then with filtered water (7 L×6), and then dried in a vacuum oven at 40° C. for two days to afford the title product.

reactant | 3-chloro-5-{[5-chloro-1-(1-t-butyloxycarbonyl-1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-indazol-4-yl]oxy}benzonitrile | 2.499 moles, 1.338 kg, 1.0 eq. | ClC=1C=C(C#N)C=C(C1)OC1=C2C=NN(C2=CC=C1Cl)CC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C26H20Cl2N6O3
reactant | DMF | 10.7 L | CN(C)C=O | C3H7NO
reactant | HCl | 2.68 L | Cl | ClH
solvent | IPA | 2.68 L | CC(C)O | C3H8O
product | 3-Chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-indazol-4-yl]oxy}benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C2C=NN(C2=CC=C1Cl)CC1=NNC2=NC=CC=C21 | C21H12Cl2N6O
